US07893267B2
To a solution of 169 mg (0.4 mmol) of isoquinoline-1-carboxylic acid [7-(2-amino-phenylcarbamoyl)-1H-benzoimidazol-2-yl]-amide in AcOH (15 mL) was added NH4OAc (0.5 g). The mixture was heated at 130° C. for 30 min. After cooling to room temperature, the AcOH was removed under reduced pressure, extracted with EtOAc (50 mL), washed with sat. aq. sodium bicarbonate solution and brine. The organic phase was dried over sodium sulfate and concentrated. The residue was dissolved in DCM (3 mL), and 5 mL of hexane was added. The resulting solid was filtered and dried to afford 120 mg (75%) of isoquinoline-1-carboxylic acid (1H,3′H-[2,4′]bibenzoimidazolyl-2′-yl)-amide. LCMS: 405 (M+1)+.

reactant | isoquinoline-1-carboxylic acid [7-(2-amino-phenylcarbamoyl)-1H-benzoimidazol-2-yl]-amide | 0.4 mmol, 169 mg | NC1=C(C=CC=C1)NC(=O)C1=CC=CC2=C1NC(=N2)NC(=O)C2=NC=CC1=CC=CC=C21 | C24H18N6O2
solvent | AcOH | 15 mL | CC(=O)O | C2H4O2
product | isoquinoline-1-carboxylic acid (1H,3′H-[2,4′]bibenzoimidazolyl-2′-yl)-amide | 120 mg, 75% | N1C(=NC2=C1C=CC=C2)C2=CC=CC=1N=C(NC12)NC(=O)C1=NC=CC2=CC=CC=C12 | C24H16N6O
